US07405299B2
B. Preparation of 2-(6-Bromo-imidazo[1,2-a]pyridin-3-yl)-1-morpholin-4-yl-ethanone
Add 0.5M diisobutylaluminum hydride in toluene (4.6 mL, 2.29 mmol) to a solution of (6-bromo-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester (0.65 g, 2.29 mmol) and morpholine (5 mL) in THF (40 mL) at −78° C. Gently warm the reaction to room temperature and dilute carefully with methanol. Filter and concentrate the filtrate. Flash chromatography gives the subtitled compound (0.24 g, 32%) as a white solid. MS ES+ m/e 324.0, 326.0 (M+1).

reactant | diisobutylaluminum hydride | 0.5M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 2.29 mmol, 4.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | (6-bromo-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 2.29 mmol, 0.65 g | C(C)OC(CC1=CN=C2N1C=C(C=C2)Br)=O | C11H11BrN2O2
reactant | morpholine | 5 mL | N1CCOCC1 | C4H9NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-(6-Bromo-imidazo[1,2-a]pyridin-3-yl)-1-morpholin-4-yl-ethanone | 0.24 g, 32% | BrC=1C=CC=2N(C1)C(=CN2)CC(=O)N2CCOCC2 | C13H14BrN3O2
